US07470723B2
Grignard reagent was prepared in an oven-dried three necked flask outfitted with a reflux condenser, dropping funnel, and magnetic stirrer. Approximately ¼ of a solution of 3,5-bromoveratrole (10 g, 46.1 mmol) in anhydrous THF (60 mL) was added to a mixture of magnesium turnings (1.12 g, 46.1 mmol) in THF (10 mL) with a small piece of iodine. As soon as the solution became colorless (heating sometimes necessary), the remaining 3,5-bromoveratrole solution was added dropwise to the reaction mixture under mild reflux, over 30 min. The resulting mixture was refluxed for 3 h then cooled to room temperature for 30 min. The (3,5-dimethoxy-phenyl) magnesium bromide was then added slowly to a stirred solution of 4-methoxy-3-nitro-benzaldehyde (6.95 g, 38.4 mmol) in THF (60 mL) at 0° C. After complete addition, the reaction mixture was stirred at cold for 10 min and then at room temperature for 2 h. The solution was cooled to 0° C. and quenched with saturated NH4Cl solution (90 mL). The aqueous layer was extracted with ether (3×90 mL). The combined organic layers were washed with water (2×120 mL), brine (120 mL) and dried (MgSO4). Removal of solvent gave the crude (3,5-dimethoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanol, which was used in the next step without further purification.

reactant | magnesium | 46.1 mmol, 1.12 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | (3,5-dimethoxy-phenyl) magnesium bromide | COC=1C=C(C=C(C1)OC)[Mg]Br
reactant | 4-methoxy-3-nitro-benzaldehyde | 38.4 mmol, 6.95 g | COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | (3,5-dimethoxy-phenyl)-(4-methoxy-3-nitro-phenyl)-methanol | COC=1C=C(C=C(C1)OC)C(O)C1=CC(=C(C=C1)OC)[N+](=O)[O-] | C16H17NO6
